US08440689B2
C. (R)-2-(2-(2,4-Dimethoxybenzyl)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoic acid
A solution of (R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoic acid (1.1 g, 2.361 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (2.456 g, 11.81 mmol) and bis(triphenylphosphine)palladium chloride (1.657 g, 2.361 mmol) in dioxane (10 mL) and saturated aq Na2CO3 (10.00 mL) was heated to 120° C. for 30 min. After filtering out the solids, the solvent was removed from the filtrate. The resulting residue was dissolved in MeOH and DCM and was purified via preparative HPLC eluting with water (0.05% TFA) and ACN (40-70% gradient, 0.035% TFA). The collected fractions were combined and the solvent stripped to dryness via rotary evaporation to yield the title compound. [M+H] calc'd for C26H30FN5O5, 512. found, 512.

reactant | (R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoic acid | 2.361 mmol, 1.1 g | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@@H](C(=O)O)CC(C)C | C22H25ClFN3O5
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 11.81 mmol, 2.456 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 10.00 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium chloride | 2.361 mmol, 1.657 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (R)-2-(2-(2,4-Dimethoxybenzyl)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoic acid | COC1=C(CN2C(C=3C(=NC(=C(C3C2)F)N[C@@H](C(=O)O)CC(C)C)C=2C=NN(C2)C)=O)C=CC(=C1)OC | C26H30FN5O5
